US08664213B2
Synthesis of phenyl(2,7-diazaspiro[4.4]nonan-2-yl)methanone
tert-butyl 7-benzoyl-2,7-diazaspiro[4.4]nonane-2-carboxylate (100 mg) was dissolved in 10% TFA solution in CH2Cl2 (10 mL). The reaction was stirred at room temperature for 24 hours. After removal of solvents, the residue, phenyl(2,7-diazaspiro[4.4]nonan-2-yl)methanone, was used in the further reactions without purification.

reactant | tert-butyl 7-benzoyl-2,7-diazaspiro[4.4]nonane-2-carboxylate | 100 mg | C(C1=CC=CC=C1)(=O)N1CC2(CCN(C2)C(=O)OC(C)(C)C)CC1 | C19H26N2O3
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | phenyl(2,7-diazaspiro[4.4]nonan-2-yl)methanone | C1(=CC=CC=C1)C(=O)N1CC2(CC1)CNCC2 | C14H18N2O
